US06987119B2
Step 1. 4-Chloro-3-,N-dimethoxy-N-methyl-benzamide
A suspension of 4-chloro-3-methoxybenzoic acid (F. Claudi et al J. Med. Chem., 1992, 35, 4408) (37.2 g, 0.2 mol) in dichloromethane (500 ml) containing oxalyl chloride (26 ml) was treated with N,N-dimethylformamide (10 drops). After stirring at room temperature for 6 hours the solution was concentrated at reduced pressure, additional dichloromethane was added to the residue and the solvent was re-evaporated. The residue was then dissolved in acetonitrile (600 ml) and methoxymethylamine hydrochloride (20.5 g, 0.21 mol) added. The mixture was cooled in an ice-bath, a solution of pyridine (80 ml) in acetonitrile (150 ml) added dropwise, and the mixture stirred at room temperature for 18 hours. The solution was concentrated and the residue partitioned between ethyl acetate and saturated potassium carbonate solution. The organic layer was separated, washed with brine, dried (MgSO4) and concentrated at reduced pressure to give the title compound (40.0 g, 87%) as a colourless oil; MS(ES+) m/e 230/232 [M+H]+.

reactant | 4-chloro-3-methoxybenzoic acid | 0.2 mol, 37.2 g | ClC1=C(C=C(C(=O)O)C=C1)OC | C8H7ClO3
reactant | oxalyl chloride | 26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methoxymethylamine hydrochloride | 0.21 mol, 20.5 g | Cl.COCN
reactant | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 10 drops | CN(C=O)C | C3H7NO
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-Chloro-3-,N-dimethoxy-N-methyl-benzamide | 40.0 g, 87% | ClC1=C(C=C(C(=O)N(C)OC)C=C1)OC | C10H12ClNO3
